US06034099
From the reaction of 4-bromophenylhydrazine and ethylbutyrylacetate, 2-(4-bromphenyl)-2,4-dihydro-5-propyl-3H-pyrazol-3-one is obtained. Subsequent reaction with 2-ethylaniline yields 2-(4-bromophenyl)-4-(2-ethylanilinomethylene)-2,4-dihydro-5-propyl-3H-pyrazol-3-one, Mp.: 126.9° C.

reactant | 4-bromophenylhydrazine | BrC1=CC=C(C=C1)NN | C6H7BrN2
reactant | ethylbutyrylacetate | C(C)CCCC(=O)CC(=O)[O-]
product | 2-(4-bromphenyl)-2,4-dihydro-5-propyl-3H-pyrazol-3-one | BrC1=CC=C(C=C1)N1N=C(CC1=O)CCC | C12H13BrN2O
